** sch_path: /Users/rwalters/GitHub/sky130-pll/.loom/worktrees/issue-178/sim/jitter-floor/testbench/tb_jitter_floor.sch
**.subckt tb_jitter_floor
VCLK CLK GND pulse(0 1.8 0 20p 20p 1.9776n 3.9952n)
R1 CLK GND 1k m=1
**** begin user architecture code

** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /Users/rwalters/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
